### ISSUE TITLE
Missing lemma about `Sum.elim`

### ISSUE THREAD

**Issue by madvorak** [leanprover/std4#685]
I couldn't find this lemma in `Std` so I proved it myself:
```
import Std

theorem Sum.elim_eq_iff {α β γ : Type _} {u u' : α → γ} {v v' : β → γ} :
    Sum.elim u v = Sum.elim u' v' ↔ u = u' ∧ v = v' := by
  apply Iff.intro (fun huv =>
    ⟨funext (fun a => congr_fun huv (Sum.inl a)), funext (fun b => congr_fun huv (Sum.inr b))⟩)
  intro ⟨hu, hv⟩
  ext i
  cases i with
  | inl a => rw [Sum.elim_inl, Sum.elim_inl]; exact congr_fun hu a
  | inr b => rw [Sum.elim_inr, Sum.elim_inr]; exact congr_fun hv b
```
Please consider adding it to `Std`.

**Comment by eric-wieser** [comment]
Here's a shorter proof:
```lean
theorem Sum.elim_eq_iff {α β γ : Type _} {u u' : α → γ} {v v' : β → γ} :
    Sum.elim u v = Sum.elim u' v' ↔ u = u' ∧ v = v' := by
  simp_rw [Function.funext_iff, Sum.forall]
  rfl
```

**Comment by madvorak** [comment]
You are right, but I need to decrease the set of imports, not increase it.

**Comment by semorrison** [comment]
@madvorak, what would you think about just moving the prerequisites of Eric's proof into Std?

I'm happy either way.

**Comment by semorrison** [comment]
(In either case, please open a PR.)

**Comment by madvorak** [comment]
https://github.com/leanprover/std4/pull/715
